US05854232
3-Adamantan-1-yl 5.5-bis-furan-3-ylmethyl-1-methyl-imidazolidine-2.4-dione
Under a N2 atmosphere was combined 3-adamantan-1-yl 5,5-bis-furan-3-ylmethyl-imidazolidine-2,4-dione (0.100 g, 0.25 mmol) in 2 ml of dry THF. To this solution was added a 60% dispersion of sodium hydride (11.1 mg, 0.28 mmol) and the suspension was allowed to stir for 1.5 hours. To this reaction mixture was then added methyl iodide (32 μl, 0.508 mmol) and the reaction mixture was allowed to stir for 30 minutes and quenched with water and extracted with 2×30 ml of methylene chloride (CH2Cl2). The organic layer was separated, dried over MgSO4, filtered and concentrated in vacuo to yield 0.103 g of the title compound.

reactant | 3-adamantan-1-yl 5,5-bis-furan-3-ylmethyl-imidazolidine-2,4-dione | 0.25 mmol, 0.100 g | C12(CC3CC(CC(C1)C3)C2)N2C(NC(C2=O)(CC2=COC=C2)CC2=COC=C2)=O | C23H26N2O4
reactant | sodium hydride | 0.28 mmol, 11.1 mg | [H-].[Na+]
reactant | methyl iodide | 0.508 mmol, 32 μl | CI | CH3I
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-Adamantan-1-yl 5.5-bis-furan-3-ylmethyl-1-methyl-imidazolidine-2.4-dione | 0.103 g | C12(CC3CC(CC(C1)C3)C2)N2C(N(C(C2=O)(CC2=COC=C2)CC2=COC=C2)C)=O | C24H28N2O4
